US06818772B2
N-((1S,2R,4S,5R)-4-((7-chloroquinolin-4-yl)amino)-2,5-dimethylcyclohexyl)-3,5-difluorobenzamide
The titled compound was prepared according to the method described in Example 23 substituting (1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-2,5-dimethylcyclohexane-1,4-diamine for N-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine and 3,5-difluorobenzoic acid for indole-6-carboxylic acid. 1H NMR (300 MHz, DMSO) δ ppm 8.87 (d, 1 H), 8.55 (t, 1 H), 8.07 (d, 1 H), 7.93 (d, 1 H), 7.83 (dd, 1 H), 7.42-7.64 (m, 4 H), 7.00 (d, 1 H), 4.00-4.20 (m, 2 H), 1.63-2.34 (m, 6 H), 1.03 (d, 3 H), 1.00 (d, 3 H). MS(ESI(+)Q1MS m/z 444 (M+H)+).

reactant | (1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-2,5-dimethylcyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1[C@@H](C[C@@H]([C@@H](C1)C)N)C | C17H22ClN3
reactant | N-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | 3,5-difluorobenzoic acid | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | N-((1S,2R,4S,5R)-4-((7-chloroquinolin-4-yl)amino)-2,5-dimethylcyclohexyl)-3,5-difluorobenzamide | ClC1=CC=C2C(=CC=NC2=C1)N[C@H]1C[C@H]([C@H](C[C@H]1C)NC(C1=CC(=CC(=C1)F)F)=O)C | C24H24ClF2N3O
